US08937150B2
3,3-bis(3-bromophenyl)-1-phenylazetidine
A mixture of 3,3-bis(3-bromophenyl)azetidine (200 mg, 0.545 mmol), iodobenzene (222 mg, 1.090 mmol), xantphos (31.5 mg, 0.054 mmol), Pd2(dba)3 (12.47 mg, 0.014 mmol) and sodium tert-butoxide (62.8 mg, 0.654 mmol) in dioxane (3 ml) was stirred for 12 h at 100° C. After cooling to room temperature, water (15 mL) and dichloromethane (15 mL) was added. The aqueous layer was extracted with dichloromethane (15 mL×3). The combined organic layers were dried and concentrated. The residue was purified by prep-TLC (eluent with dichloromethane: EtOAc=5:1) to afford 140 mg of the title compound (0.31 mmol, 58%). LC/MS: [M+1]=444, Ret. Time: 2.69 min. 1HNMR (CDCl3), 400 MHz: 4.42 (s, 4H), 6.54 (d, 2H, J=7.6 Hz), 7.09-7.11 (m, 2H), 6.79 (t, 1H, J=7.2 Hz), 7.17-7.26 (m, 6H), 7.37-7.45 (m, 4H).

reactant | 3,3-bis(3-bromophenyl)azetidine | 0.545 mmol, 200 mg | BrC=1C=C(C=CC1)C1(CNC1)C1=CC(=CC=C1)Br | C15H13Br2N
reactant | iodobenzene | 1.090 mmol, 222 mg | IC1=CC=CC=C1 | C6H5I
reactant | xantphos | 0.054 mmol, 31.5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 0.654 mmol, 62.8 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.014 mmol, 12.47 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 15 mL | O | H2O
product | 3,3-bis(3-bromophenyl)-1-phenylazetidine | 0.31 mmol, 140 mg, 58% | BrC=1C=C(C=CC1)C1(CN(C1)C1=CC=CC=C1)C1=CC(=CC=C1)Br | C21H17Br2N
